US05866573
Preparation of 2-Amino-5-aminomethyl-6-methylpyridine dihydrochloride
A mixture of 2-amino-5-cyano-6-methylpyridine (4.0 g, 30.0 mmol) and 10% Pd/C (3.08 g) in ethanol (80 mL), methanol (30 mL), concentrated HCl (6 mL) and water (10 mL) was shaken on a Parr apparatus at 60 psi for 25 h. The reaction was filtered through celite, rinsing with 1:1 ethanol/methanol and was evaporated in vacuo to a solid, which was triturated with 5:1 ethyl acetate/ethanol to give the title compound (5.95 g, 94%):

reactant | 2-amino-5-cyano-6-methylpyridine | 30.0 mmol, 4.0 g | NC1=NC(=C(C=C1)C#N)C | C7H7N3
reactant | HCl | 6 mL | Cl | ClH
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
catalyst | Pd/C | 3.08 g | [Pd] | Pd
product | 2-Amino-5-aminomethyl-6-methylpyridine dihydrochloride | 5.95 g, 94% | Cl.Cl.NC1=NC(=C(C=C1)CN)C | InChI=1S/C7H11N3.2ClH/c1-5-6(4-8)2-3-7(9)10-5;;/h2-3H,4,8H2,1H3,(H2,9,10);2*1H
